US04397860
(c) 2-Cyano-2-methyl-1,4-benzodioxan
A stirred mixture of 2-methyl-1,4-benzodioxan-2-carboxamide (8.17 g), phosphorus pentoxide (17 g) and anhydrous toluene (175 ml) was heated under reflux for 4 hours. On cooling the supernatant was decanted from the residue, the latter being washed by decantation with more toluene. Filtration and evaporation of the solvent gave a solid residue (5.18 g). Crystallisation from ethanol yielded the cyano compound (4.4 g); m.p. 88°-89°.

reactant | 2-methyl-1,4-benzodioxan-2-carboxamide | 8.17 g | CC1(COC2=C(O1)C=CC=C2)C(=O)N | C10H11NO3
reactant | phosphorus pentoxide | 17 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | 175 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-2-methyl-1,4-benzodioxan | 5.18 g | C(#N)C1(COC2=C(O1)C=CC=C2)C | C10H9NO2
